US06107275
Dissolve Boc-Trp(NHBn) (1.97 g, 5 mmol) in a solution of 4N hydrochloric acid in dioxane (10 mL). Stir at room temperature for 30 minutes and evaporate the solvent in vacuo to give Trp(NHBn)·hydrochloride.

reactant | Boc-Trp(NHBn) | 5 mmol, 1.97 g | N([C@@H](CC1=CN(C2=CC=CC=C12)NCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C23H27N3O4
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | Trp(NHBn)·hydrochloride | N[C@@H](CC1=CN(C2=CC=CC=C12)NCC1=CC=CC=C1)C(=O)O.Cl | InChI=1S/C18H19N3O2.ClH/c19-16(18(22)23)10-14-12-21(17-9-5-4-8-15(14)17)20-11-13-6-2-1-3-7-13;/h1-9,12,16,20H,10-11,19H2,(H,22,23);1H/t16-;/m0./s1
